// or2.scs - 2-input CMOS OR Gate
// OR2 = NOR2 + Inverter
// Truth table: OUT = A | B
//   A B | OUT
//   0 0 | 0
//   0 1 | 1
//   1 0 | 1
//   1 1 | 1
// Run: spectre or2.scs -raw or2.raw

simulator lang=spectre

parameters vdd_val=1.8

// MOSFET Models
model nch mos1 type=n vth=0.4 kp=120u
model pch mos1 type=p vth=-0.4 kp=40u

// Supply
V_VDD (vdd 0) vsource dc=vdd_val

// Inputs - cycle through all 4 combinations
// t=5ns:  A=0, B=0
// t=15ns: A=1, B=0
// t=25ns: A=0, B=1
// t=35ns: A=1, B=1
V_A (a 0) vsource type=pulse val0=0 val1=vdd_val delay=10n rise=100p fall=100p width=10n period=20n
V_B (b 0) vsource type=pulse val0=0 val1=vdd_val delay=20n rise=100p fall=100p width=20n period=40n

// Subcircuits
subckt nor2 (a b out vdd)
    MP0 (mid a vdd vdd) pch w=4u l=1u
    MP1 (out b mid mid) pch w=4u l=1u
    MN0 (out a 0 0) nch w=1u l=1u
    MN1 (out b 0 0) nch w=1u l=1u
ends nor2

subckt inverter (in out vdd)
    MP0 (out in vdd vdd) pch w=2u l=1u
    MN0 (out in 0 0) nch w=1u l=1u
ends inverter

// OR2 = NOR2 + INV
X_NOR (a b nor_out vdd) nor2
X_INV (nor_out out vdd) inverter

// Analysis
tran_test tran stop=80n

save out a b
